US04283328
N-Carbobenzoxy-L-prolyl-dehydrophenylalanyl-L-phenylalanine methyl ester
A mixture of 0.759 g (0.0036 mole) of L-phenylalanine methyl ester hydrochloride and 40 ml of ethyl acetate was cooled in an ice-bath and 15 ml of cold 505 potassium carbonate solution was added. The mixture was equilibrated, and the ethyl acetate layer was separated and dried over anhydrous Na2SO4 at 0°. To the solution 1.129 g (0.003 mole) of the azlactone of N-carbobenzoxy-L-prolyl-dehydrophenylalanine was added. The reaction mixture was then refluxed for 8 hours, cooled and washed with N-hydrochloric acid, saturated sodium bicarbonate solution, saturated sodium chloride solution and dried over anhydrous Na2SO4. The solvent was evaporated in vacuo and the residual crystals were recrystallized from ethyl acetate/petroleum ether giving 1.473 g (88%) of N-carbobenzoxy-L-prolyl-dehydrophenylalanyl-L-phenylalanine methyl ester, mp 161°-163.5°, RfA 0.95, [α]D26 =-94.3° (c, 1% in EtOH); ir (CHCl3) 1735 (C=) 1690-1670 (C=O), 1630 cm-1 (C=C); NMR (CDCl3) δ1.5-2.4 (m, 4H, Pro ring), 3.0-3.33 (m, 2H, --CHCH2Ph), 3.33-3.57 (m, 2H, Pro ring) 3.63 (s, 3H, --COOCH3), 4.17-4.53 (m, 1H, --CH-CH2Ph), 4.67-5.0 (m, 1H, Pro ring), 5.02 (br.s., 2H>NOCOCH2Ph) 6.83-7.47 (m, 11H, ArH and PhCH=C<), 7.9-8.1 ppm (b, 2 H, NH, exchange by D2O).

reactant | L-phenylalanine methyl ester hydrochloride | 0.0036 mole, 0.759 g | Cl.COC([C@@H](N)CC1=CC=CC=C1)=O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | N-carbobenzoxy-L-prolyl-dehydrophenylalanine | C(=O)(OCC1=CC=CC=C1)N1[C@H](C(=O)NC(=CC2=CC=CC=C2)C(=O)O)CCC1 | C22H22N2O5
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
product | N-Carbobenzoxy-L-prolyl-dehydrophenylalanyl-L-phenylalanine methyl ester | COC([C@@H](NC(C(NC([C@H]1N(CCC1)C(=O)OCC1=CC=CC=C1)=O)=CC1=CC=CC=C1)=O)CC1=CC=CC=C1)=O | C32H33N3O6
